US08865726B2
(R)-tert-butyl 2-(((S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyl-2-oxoimidazolidin-1-yl)methyl)pyrrolidine-1-carboxylate (94 mg, 50%) was prepared by the procedure described in Example 38, Step 1, using (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-5-isopropylimidazolidin-2-one and (R)-tert-butyl 2-((methylsulfonyloxy)methyl)pyrrolidine-1-carboxylate.

reactant | (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-5-isopropylimidazolidin-2-one | BrC=1C=NN2C1N=C(C=C2)N2C(NC[C@@H]2C(C)C)=O | C12H14BrN5O
reactant | (R)-tert-butyl 2-((methylsulfonyloxy)methyl)pyrrolidine-1-carboxylate | CS(=O)(=O)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C11H21NO5S
product | (R)-tert-butyl 2-(((S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyl-2-oxoimidazolidin-1-yl)methyl)pyrrolidine-1-carboxylate | 94 mg, 50% | BrC=1C=NN2C1N=C(C=C2)N2C(N(C[C@@H]2C(C)C)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C)=O | C22H31BrN6O3
